US07625903B2
2-[(5-Chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]-N-[(1S)-2-hydroxy-1-methylethyl]benzamide
Ethyl 2-[(5-chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate (150 mg, 0.32 mmol) and (2S)-2-amino-1-propanol (0.5 mL) were combined in a vessel, which was sealed and heated with stirring at 95° C. for 18 h. The reaction was cooled to room temperature and the solid was filtered off and washed with ethanol/water (1:1 ratio) and ethyl ether to afford the product (82 mg, 52% yield) as a white solid. MS: M(C25H30ClN7O2)=496.01, (M+H)+=496.2 and 498.2.

reactant | Ethyl 2-[(5-chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate | 0.32 mmol, 150 mg | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)OCC)C=CC=C1 | C24H27ClN6O2
reactant | (2S)-2-amino-1-propanol | 0.5 mL | N[C@H](CO)C | C3H9NO
product | 2-[(5-Chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]-N-[(1S)-2-hydroxy-1-methylethyl]benzamide | 82 mg, 52% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)N[C@H](CO)C)C=CC=C1 | C25H30ClN7O2
